US08378095B2
To a mixture of tert-butyl 4-(4-(4-(ethoxycarbonyl)-2-iodooxazol-5-yl)phenyl)piperazine-1-carboxylate (0.080 g, 0.15 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)-1H-indazole (0.080 g, 0.33 mmol) and sodium carbonate (0.048 g, 0.45 mmol) in toluene (0.81 ml), ethanol (0.49 ml) and water (0.23 ml) was added bis(triphenylphosphine)palladium (II) chloride (0.005 g, 0.007 mmol) and the resulting mixture heated in the microwave at 120° C. for 60 minutes followed by an additional 45 minutes. The reaction mixture was diluted with EtOAc and washed with 1M NaOH. The organic phase was passed through a MP-SH cartridge, dried over MgSO4 and the solvent removed in vacuo. The residue was purified by silica gel column chromatography using a 10-100% EtOAc in hexane gradient to afford tert-butyl 4-(4-(4-(ethoxycarbonyl)-2-(1H-indazol-4-yl)oxazol-5-yl)phenyl)piperazine-1-carboxylate (0.037 g, 0.07 mmol, 47%) as a yellow solid. LCMS (2) Rt: 3.57 min; m/z (ES+) 518.

reactant | tert-butyl 4-(4-(4-(ethoxycarbonyl)-2-iodooxazol-5-yl)phenyl)piperazine-1-carboxylate | 0.15 mmol, 0.080 g | C(C)OC(=O)C=1N=C(OC1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)I | C21H26IN3O5
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)-1H-indazole | 0.33 mmol, 0.080 g | CC1(OB(OC1(C)C)C1=C2C=NNC2=CC=C1)C | C13H17BN2O2
reactant | sodium carbonate | 0.45 mmol, 0.048 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 0.81 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.49 ml | C(C)O | C2H6O
solvent | water | 0.23 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.007 mmol, 0.005 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | tert-butyl 4-(4-(4-(ethoxycarbonyl)-2-(1H-indazol-4-yl)oxazol-5-yl)phenyl)piperazine-1-carboxylate | 0.07 mmol, 0.037 g, 47% | C(C)OC(=O)C=1N=C(OC1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=C2C=NNC2=CC=C1 | C28H31N5O5
